US08309581B2
b) 2-(4-Chloro-2-methoxy-phenyl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole
To a suspension of sodium hydride (0.40 g, 10 mmol, 60%) in dry N,N-dimethylformamide (10 ml) at 25° C. was slowly added a solution of 2-(4-chloro-2-methoxy-phenyl)-5,6-difluoro-1H-benzoimidazole (1.47 g, 5 mmol) in dry N,N-dimethylformamide (5 ml), and was allowed to stir for 0.5 h. A solution of bromomethyl-cyclohexane (0.81 g, 6 mmol; CAS Reg. No. 2550-36-9) in N,N-dimethylformamide (5 ml) was then added drop wise to the above solution, and further stirred for 16 h at 25° C. The reaction mixture was quenched with saturated aqueous solution of ammonium chloride. The solvents were removed under reduced pressure. The crude material dissolved in ethyl acetate, washed with water, and then with brine, dried over sodium sulfate, filtered, and evaporated under reduced pressure. The crude product was purified by column chromatography over silica gel (20% ethyl acetate/n-hexane) to afford the title compound as a brown solid (53%). MS (Turbo Spray): m/z=391.4 (M+H).

reactant | sodium hydride | 10 mmol, 0.40 g | [H-].[Na+]
reactant | 2-(4-chloro-2-methoxy-phenyl)-5,6-difluoro-1H-benzoimidazole | 5 mmol, 1.47 g | ClC1=CC(=C(C=C1)C1=NC2=C(N1)C=C(C(=C2)F)F)OC | C14H9ClF2N2O
reactant | bromomethyl-cyclohexane | BrCC1CCCCC1 | C7H13Br
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chloro-2-methoxy-phenyl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole | 53% | ClC1=CC(=C(C=C1)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F)OC | C21H21ClF2N2O
